US07807709B2
(3R*,4R*)-3-(1-Cyclopropyl-3-methyl-3-phenyl-ureidomethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
A mixture of (3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (216 mg, 0.41 mmol), N-methyl-N-phenyl carbamoylchloride (274 mg, 1.62 mmol), triethylamine (0.45 mL, 3.24 mmol) and DMAP (1 mg, 0.008 mmol) in THF (15 mL) is heated at 60° C. for 4 h. After cooling to RT 1N HCl is added and the mixture is extracted with ethyl acetate, the combined organic extracts are dried (Na2SO4), filtered and the solvent is evaporated. Purification by flash chromatography on silica gel (eluent gradient: CH2Cl2 100% CH2Cl2/MeOH 9:1) affords the title compound. MS (LC-MS): 667.1 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H2O/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 ml/min): 6.02 min.

reactant | (3R*,4R*)-3-cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.41 mmol, 216 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CNC1CC1 | C29H47N3O6
reactant | N-methyl-N-phenyl carbamoylchloride | 1.62 mmol, 274 mg | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | triethylamine | 3.24 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
catalyst | DMAP | 0.008 mmol, 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (3R*,4R*)-3-(1-Cyclopropyl-3-methyl-3-phenyl-ureidomethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C(=O)N(C1=CC=CC=C1)C)C1CC1 | C37H54N4O7
